US07498337B2
methyl 5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)nicotinate hydrochloride
A mixture of tert-butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate (112 mg), dichloro[bis(triphenylphosphine)]palladium (28 mg), triethylamine (0.25 mL) and methanol (15 mL) was stirred under a carbon monoxide atmosphere (3 atm) at 100° C. for 12 hr. After cooling to room temperature, the reaction mixture was concentrated under reduced pressure. A saturated aqueous sodium hydrogencarbonate solution was added to the residue, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→43:2) to give a colorless oil. The obtained-oil was dissolved in ethanol (2 mL), and a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added. After stirring at room temperature for 1 hr, the mixture was concentrated under reduced pressure, and recrystallized from ethanol to give the title compound as a solid (yield 47.0 mg, 56%).

reactant | tert-butyl({1-[(5-bromopyridin-3-yl)sulfonyl]-5-phenyl-1H-pyrrol-3-yl}methyl)methylcarbamate | 112 mg | C(C)(C)(C)OC(N(C)CC1=CN(C(=C1)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=C(C1)Br)=O | C22H24BrN3O4S
reactant | triethylamine | 0.25 mL | C(C)N(CC)CC | C6H15N
reactant | methanol | 15 mL | CO | CH4O
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | methyl 5-({4-[(methylamino)methyl]-2-phenyl-1H-pyrrol-1-yl}sulfonyl)nicotinate hydrochloride | yield 47.0 mg, 56% | Cl.CNCC=1C=C(N(C1)S(=O)(=O)C=1C=NC=C(C(=O)OC)C1)C1=CC=CC=C1 | InChI=1S/C19H19N3O4S.ClH/c1-20-10-14-8-18(15-6-4-3-5-7-15)22(13-14)27(24,25)17-9-16(11-21-12-17)19(23)26-2;/h3-9,11-13,20H,10H2,1-2H3;1H
